US07615651B2
Preparation of intermediate (4-Bromo-2,6-difluoro-benzyl)-(3-methyl-butyl)-amine (I-1b)
4-Bromo-2,6-difluoro-benzaldehyde (I-1a: 30 g) and isoamyl amine (13 g) were combined in dichloroethane (1 L) at ambient temperature. After stirring for 2 hours, sodium triacetoxyborohydride (144 g) was added to the reaction mixture. After stirring overnight, the reaction mixture was treated with a 2 M aqueous potassium hydroxide solution. The layers were separated and the organic phase dried over magnesium sulfate before being filtered and concentrated with a rotary evaporator to provide the title compound (I-1b) as an oil, which was used in the subsequent transformation without further purification.

reactant | 4-Bromo-2,6-difluoro-benzaldehyde | 30 g | BrC1=CC(=C(C=O)C(=C1)F)F | C7H3BrF2O
reactant | isoamyl amine | 13 g | C(CC(C)C)N | C5H13N
reactant | sodium triacetoxyborohydride | 144 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium hydroxide | 2 M | [OH-].[K+]
solvent | dichloroethane | 1 L | ClC(C)Cl | C2H4Cl2
product | (4-Bromo-2,6-difluoro-benzyl)-(3-methyl-butyl)-amine | BrC1=CC(=C(CNCCC(C)C)C(=C1)F)F | C12H16BrF2N
